US09302996B2
By using 2-methyl-4-[5-[4-(trifluoromethyl)-1-(2-trimethylsilylethoxymethyl)-imidazol-2-yl]-2-pyridyl]phenol (224 mg) and tert-butyl 3-hydroxy-2,2-dimethylpropanoate (284 mg), the procedure was carried out in the same manner as in Example 1-1) to obtain tert-butyl 2,2-dimethyl-3-[2-methyl-4-[5-[4-(trifluoromethyl)-1-(2-trimethylsilylethoxymethyl)imidazol-2-yl]-2-pyridyl]phenoxy]propanoate (104 mg).

reactant | 2-methyl-4-[5-[4-(trifluoromethyl)-1-(2-trimethylsilylethoxymethyl)-imidazol-2-yl]-2-pyridyl]phenol | 224 mg | CC1=C(C=CC(=C1)C1=NC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)O | C22H26F3N3O2Si
reactant | tert-butyl 3-hydroxy-2,2-dimethylpropanoate | 284 mg | OCC(C(=O)OC(C)(C)C)(C)C | C9H18O3
product | tert-butyl 2,2-dimethyl-3-[2-methyl-4-[5-[4-(trifluoromethyl)-1-(2-trimethylsilylethoxymethyl)imidazol-2-yl]-2-pyridyl]phenoxy]propanoate | 104 mg | CC(C(=O)OC(C)(C)C)(COC1=C(C=C(C=C1)C1=NC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C)C | C31H42F3N3O4Si
